US08426447B2
A vial was charged with (S)-2′-(2-methylallyloxy)-7′-(pyridin-3-yl)-5H-spiro[oxazole-4,9′-xanthen]-2-amine (41.17 mg, 0.103 mmol) and water (0.5 mL) giving a suspension. Sulfuric acid (110 μL, 2.061 mmol) was added, and the mixture became a cloudy solution. The vial was sealed and placed in a 70° C. oil bath for 8 h. The mixture was cooled to RT, and potassium carbonate was added until bubbling ceased. The resulting suspension was extracted with DCM (3×). The combined organic extracts were dried over sodium sulfate, filtered, and evaporated. The residue was chromatographed on a 12-g Redi-Sep column eluting with 0-10% MeOH/DCM to give a white solid. The solid was dissolved in methanol and purified further by reverse-phase HPLC (10-90% CH3CN/H2O with 0.1% TFA). The fractions containing product were combined in saturated aq. sodium bicarbonate solution and extracted with DCM (3×). The combined organic extracts were dried over sodium sulfate, filtered, and evaporated to give (S)-1-(2-amino-2′-(pyridin-3-yl)-5H-spiro[oxazole-4,9′-xanthene]-7′-yloxy)-2-methylpropan-2-ol as a white solid. MS m/z=418.2 [M+H]+. Calculated Mass for C24H24N3O4: 418.2.

reactant | (S)-2′-(2-methylallyloxy)-7′-(pyridin-3-yl)-5H-spiro[oxazole-4,9′-xanthen]-2-amine | 0.103 mmol, 41.17 mg | CC(COC1=CC=2[C@]3(C4=CC(=CC=C4OC2C=C1)C=1C=NC=CC1)N=C(OC3)N)=C | C24H21N3O3
reactant | water | 0.5 mL | O | H2O
reactant | Sulfuric acid | 2.061 mmol, 110 μL | S(O)(O)(=O)=O | H2O4S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | CO | CH4O
product | (S)-1-(2-amino-2′-(pyridin-3-yl)-5H-spiro[oxazole-4,9′-xanthene]-7′-yloxy)-2-methylpropan-2-ol | NC=1OC[C@]2(C3=CC(=CC=C3OC=3C=CC(=CC23)C=2C=NC=CC2)OCC(C)(O)C)N1 | C24H23N3O4
